US20010027196A1
To a stirred solution of 335 mg (0.95 mmol) trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester in 20 ml dioxane was added 1.03 ml (9.46 mmol) benzylamine and the mixture heated at reflux for 1 hour. The reaction mixture was then concentrated in vacuo. Chromatography (ethyl acetate) followed by recrystallisation from ether/hexane afforded 230 mg (78%) N4-benzyl-6-furan-2-yl-5-nitro-pyrimidine-2,4-diamine as a yellow crystalline solid. ES-MS m/e (%): 312 (M+H+, 100).

reactant | trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester | 0.95 mmol, 335 mg | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=1OC=CC1 | C9H5F3N4O6S
reactant | benzylamine | 9.46 mmol, 1.03 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N4-benzyl-6-furan-2-yl-5-nitro-pyrimidine-2,4-diamine | 230 mg, 78% | C(C1=CC=CC=C1)NC1=NC(=NC(=C1[N+](=O)[O-])C=1OC=CC1)N | C15H13N5O3
